US07772285B2
3.00 g of 1-chloroethyl ethyl carbonate was dissolved in 90 mL of acetonitrile, to which 13.3 g of sodium iodide was added, and this mixture was stirred for 1.5 hours at 60° C. This mixture was cooled to room temperature, followed by concentration thereof under reduced pressure, and then insoluble substances were filtered out thereof by adding diethyl ether to the residue. The resultant filtrate was concentrated under reduced pressure to yield 4.60 g of ethyl 1-iodoethyl carbonate as orange oil.

reactant | 1-chloroethyl ethyl carbonate | 3.00 g | C(OC(C)Cl)(OCC)=O | C5H9ClO3
reactant | sodium iodide | 13.3 g | [I-].[Na+]
solvent | acetonitrile | 90 mL | C(C)#N | C2H3N
product | ethyl 1-iodoethyl carbonate | 4.60 g | C(OCC)(OC(C)I)=O | C5H9IO3
